US08067445B2
Step 1: [2′-(3-Benzyl-1-ethyl-ureidomethyl)-5-chloro-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: 3-benzyl-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea and (3-bromo-5-chloro-phenyl)-acetic acid methyl ester.

reactant | 3-benzyl-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea | C(C1=CC=CC=C1)NC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C24H30BF3N2O3
reactant | (3-bromo-5-chloro-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)Cl)Br)=O | C9H8BrClO2
product | [2′-(3-Benzyl-1-ethyl-ureidomethyl)-5-chloro-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C27H26ClF3N2O3
